US06071925
8-(5,8-Dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride
The title compound, m.p. 290-293° C. was prepared in accordance with the general method of example 1 from 5,8-dichloro-2-tetralone and 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one.

reactant | 5,8-dichloro-2-tetralone | ClC1=C2CCC(CC2=C(C=C1)Cl)=O | C10H8Cl2O
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
product | 8-(5,8-Dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.ClC1=C2CCC(CC2=C(C=C1)Cl)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | InChI=1S/C23H25Cl2N3O.ClH/c24-20-8-9-21(25)19-14-17(6-7-18(19)20)27-12-10-23(11-13-27)22(29)26-15-28(23)16-4-2-1-3-5-16;/h1-5,8-9,17H,6-7,10-15H2,(H,26,29);1H
